US06235731B1
1) Synthesis of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylaminocarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a suspension of 0.5 g (2.29 mmol.) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 0.53 g (4.61 mmol.) of N-hydroxysuccinimide in acetonitrile (10 ml) was added, at room temperature, 0.88 g (4.59 mmol.) of N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride. The mixture was stirred for 2 hours. To the reaction system was added a solution of 0.96 g (2.76 mmol.) of N-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-aminoacetamide dihydrochloride, 0.84 g (5.52 mmol.) of 1,8-diazabicyclo[5.4.0]unde-7-cene (DBU) and 0.4 ml (2.87 mmol.) of triethylamine in acetonitrile (10 ml). The mixture was stirred for further one hour. The solvent was distilled off under reduced pressure. To the residue was added water, and the mixture was subjected to extraction with chloroform. The organic layer was washed with a saturated aqueous saline solution and dried over magnesium sulfate, followed by distilling off the solvent under reduced pressure to leave a crude product. The crude product was purified by means of a column chromatography (methanol/ethyl acetate 1:3→1:1→3:1), followed by recrystallization from ethyl acetate to afford the object compound as purple crystals. The yield was 303.2 mg (28%).

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 2.29 mmol, 0.5 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 4.61 mmol, 0.53 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide hydrochloride | 4.59 mmol, 0.88 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-[1-(3-phenylpropan-1-yl)piperidin-4-yl]-aminoacetamide dihydrochloride | 2.76 mmol, 0.96 g | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)NC(CN)=O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 2.87 mmol, 0.4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylaminocarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)CCCC(NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)C(=O)NC3CCNCC3 | C26H29N5O2S
